US05958942
4,5-Dihydro-4-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one
A solution prepared by dissolving 5.78 g (24.22 mM) of 3-carbethoxy-5-chloromethylimidazo[1,2-a]pyridine, 7.78 g (36.33 mM) of 1-tert-butoxycarbonyl-4-aminomethylpiperidine, and 6.75 ml (48.44 mM) of triethylamine in 100 ml of ethanol was refluxed under argon gas for 3 hours. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was extracted with 100 ml of chloroform. The organic layer was washed with saturated aqueous NaCl solution and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol=20:1) to provide 6.50 g (yield 72.4%) of the title compound as yellow liquid.

reactant | 3-carbethoxy-5-chloromethylimidazo[1,2-a]pyridine | 24.22 mM, 5.78 g | C(=O)(OCC)C1=CN=C2N1C(=CC=C2)CCl | C11H11ClN2O2
reactant | 1-tert-butoxycarbonyl-4-aminomethylpiperidine | 36.33 mM, 7.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | triethylamine | 48.44 mM, 6.75 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4,5-Dihydro-4-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 6.50 g, yield 72.4% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O | C20H26N4O3
